US08871943B2
To a solution of 4,5-dichloro-6-(4-methoxyphenyl)picolinoyl chloride (2.5 g, 7.9 mmol) in sulfolane (40 mL, dried over 4 Å molecular sieves, 100 ppm of water) was added potassium fluoride (2.75 g, 47.4 mmol). The reaction mixture was heated at 150° C. for 24 h. Additional potassium fluoride (1.4 g, 24 mmol) was added, and reaction mixture was heated at 150° C. for an additional 24 h. Reaction mixture was analyzed by GC-MS and 19F NMR. Data for 4,5-difluoro-6-(4-methoxyphenyl)picolinoyl fluoride, GC-MS: m/z=267, 224, 176; 19F NMR (376 MHz, Tol) δ 16.94 (s), −124.65 (d, J=19.1 Hz), −141.23 (d, J=19.1 Hz). Reaction was allowed to cool to room temperature, and triethylamine (1.4 mL, 9.9 mmol) and isopropanol (0.9 mL, 11.9 mmol) were added. After stirring for 1.5 h, the reaction mixture was diluted with water (125 mL) and transferred to a reparatory funnel. The reaction mixture was extracted with methyl tert-butyl ether (MTBE, 2×75 mL). The combined organic extracts were washed with water (3×75 mL) and saturated NaCl (75 mL) and concentrated under reduced pressure to provide a brown oil. The crude product oil was purified by silica gel flash chromatography (hexane/ethyl acetate gradient, 100% hexane→20% hexane/ethyl acetate) to provide 0.60 g (25% yield) of isopropyl 4,5-difluoro-6-(4-methoxyphenyl)picolinate as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ 8.08-8.01 (m, 2H), 7.82 (dd, J=9.5, 5.2 Hz, 1H), 7.04-6.97 (m, 2H), 5.30 (hept, J=6.3 Hz, 1H), 3.86 (s, 3H), 1.42 (d, J=6.3 Hz, 6H); 13C NMR (101 MHz, CDCl3) δ 162.93 (s), 161.22 (s), 156.68 (dd, J=263.5, 12.7 Hz), 147.70 (dd, J=267.9, 10.9 Hz), 146.61 (dd, J=286.4, 10.5 Hz), 145.18 (s), 130.53 (d, J=6.6 Hz), 126.43, 114.02 (s), 112.77 (d, J=16.1 Hz), 69.99 (s), 55.32 (s), 21.82 (s); 19F NMR (376 MHz, CDCl3) δ −125.81 (d, J=17.7 Hz), −145.30 (d, J=19.1 Hz); MS Calcd. for C16H15F2NO3: 307.10. Found: 307 (M+), 221, 206.

reactant | 4,5-dichloro-6-(4-methoxyphenyl)picolinoyl chloride | 7.9 mmol, 2.5 g | ClC1=CC(=NC(=C1Cl)C1=CC=C(C=C1)OC)C(=O)Cl | C13H8Cl3NO2
reactant | potassium fluoride | 47.4 mmol, 2.75 g | [F-].[K+]
reactant | potassium fluoride | 24 mmol, 1.4 g | [F-].[K+]
reactant | 4,5-difluoro-6-(4-methoxyphenyl)picolinoyl fluoride | FC1=CC(=NC(=C1F)C1=CC=C(C=C1)OC)C(=O)F | C13H8F3NO2
reactant | triethylamine | 9.9 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | isopropanol | 11.9 mmol, 0.9 mL | C(C)(C)O | C3H8O
solvent | sulfolane | 40 mL | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | water | 125 mL | O | H2O
product | isopropyl 4,5-difluoro-6-(4-methoxyphenyl)picolinate | 0.60 g, 25% yield | FC1=CC(=NC(=C1F)C1=CC=C(C=C1)OC)C(=O)OC(C)C | C16H15F2NO3
